US07220824B1
II.2d: Ethyl 3-(glycinylamino)-3-phenylpropionate
LiOH x H2O (775 mg) was added to a solution of ethyl 3-{2-[(3-(guanidino)benzoyl)amino]acetamido}-3-phenyl-propanoate from II.1-E (2.0 g) in 100 ml of water and the mixture was stirred at room temperature for 1 h. It was then neutralized with trifluoroacetic acid and concentrated. After purification by HPLC, a white solid was obtained (yield: 1.4 g).

reactant | LiOH | 775 mg | [Li+].[OH-]
reactant | ethyl 3-{2-[(3-(guanidino)benzoyl)amino]acetamido}-3-phenyl-propanoate | N(C(=N)N)C=1C=C(C(=O)NCC(=O)NC(CC(=O)OCC)C2=CC=CC=C2)C=CC1 | C21H25N5O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 100 ml | O | H2O
product | Ethyl 3-(glycinylamino)-3-phenylpropionate | NCC(=O)NC(CC(=O)OCC)C1=CC=CC=C1 | C13H18N2O3
